ROM raw-write replay channel 2; bus.csv
.include /Users/mc/Williams-WPC-Power-Driver-Board-A-12697-3-/tools/spice/models.lib
Vrail rail 0 86
Vcmd cmd 0 PWL(
+ 0.000000000000 0.00
+ 0.199999980000 0.00
+ 0.200000000000 4.50
+ 0.203249980000 4.50
+ 0.203250000000 0.00
+ 0.209379480000 0.00
+ 0.209379500000 4.50
+ 0.211440980000 4.50
+ 0.211441000000 0.00
+ 0.217568980000 0.00
+ 0.217569000000 4.50
+ 0.219634480000 4.50
+ 0.219634500000 0.00
+ 0.225761480000 0.00
+ 0.225761500000 4.50
+ 0.227824980000 4.50
+ 0.227825000000 0.00
+ 0.233953980000 0.00
+ 0.233954000000 4.50
+ 0.236016480000 4.50
+ 0.236016500000 0.00
+ 0.242144980000 0.00
+ 0.242145000000 4.50
+ 0.244214480000 4.50
+ 0.244214500000 0.00
+ 0.250339980000 0.00
+ 0.250340000000 4.50
+ 0.252401480000 4.50
+ 0.252401500000 0.00
+ 0.257358480000 0.00
+ 0.257358500000 4.50
+ 0.261455480000 4.50
+ 0.261455500000 0.00
+ 0.266722480000 0.00
+ 0.266722500000 4.50
+ 0.269719480000 4.50
+ 0.269719500000 0.00
+ 0.274913480000 0.00
+ 0.274913500000 4.50
+ 0.277839980000 4.50
+ 0.277840000000 0.00
+ 0.283104980000 0.00
+ 0.283105000000 4.50
+ 0.286159980000 4.50
+ 0.286160000000 0.00
+ 0.291298480000 0.00
+ 0.291298500000 4.50
+ 0.294223980000 4.50
+ 0.294224000000 0.00
+ 0.299488980000 0.00
+ 0.299489000000 4.50
+ 0.302487980000 4.50
+ 0.302488000000 0.00
+ 0.307681480000 0.00
+ 0.307681500000 4.50
+ 0.310607480000 4.50
+ 0.310607500000 0.00
+ 0.315873480000 0.00
+ 0.315873500000 4.50
+ 0.318883980000 4.50
+ 0.318884000000 0.00
+ 0.322880980000 0.00
+ 0.322881000000 4.50
+ 0.328176980000 4.50
+ 0.328177000000 0.00
+ 0.332256980000 0.00
+ 0.332257000000 4.50
+ 0.336371480000 4.50
+ 0.336371500000 0.00
+ 0.340449980000 0.00
+ 0.340450000000 4.50
+ 0.344560980000 4.50
+ 0.344561000000 0.00
+ 0.348640980000 0.00
+ 0.348641000000 4.50
+ 0.352752480000 4.50
+ 0.352752500000 0.00
+ 0.356833480000 0.00
+ 0.356833500000 4.50
+ 0.360944480000 4.50
+ 0.360944500000 0.00
+ 0.365024980000 0.00
+ 0.365025000000 4.50
+ 0.369136480000 4.50
+ 0.369136500000 0.00
+ 0.373218480000 0.00
+ 0.373218500000 4.50
+ 0.377328980000 4.50
+ 0.377329000000 0.00
+ 0.388416980000 0.00
+ 0.388417000000 4.50
+ 0.394575980000 4.50
+ 0.394576000000 0.00
+ 0.396608480000 0.00
+ 0.396608500000 4.50
+ 0.402773480000 4.50
+ 0.402773500000 0.00
+ 0.404799980000 0.00
+ 0.404800000000 4.50
+ 0.410959480000 4.50
+ 0.410959500000 0.00
+ 0.412993480000 0.00
+ 0.412993500000 4.50
+ 0.419157480000 4.50
+ 0.419157500000 0.00
+ 0.421185480000 0.00
+ 0.421185500000 4.50
+ 0.427344980000 4.50
+ 0.427345000000 0.00
+ 0.429376980000 0.00
+ 0.429377000000 4.50
+ 0.435543980000 4.50
+ 0.435544000000 0.00
+ 0.437568980000 0.00
+ 0.437569000000 4.50
+ 0.503118980000 4.50
+ 0.503119000000 0.00
+ 7.908727313000 0.00
+ 7.908727333000 4.50
+ 7.910789313000 4.50
+ 7.910789333000 0.00
+ 7.916991813000 0.00
+ 7.916991833000 4.50
+ 7.918988813000 4.50
+ 7.918988833000 0.00
+ 7.925109813000 0.00
+ 7.925109833000 4.50
+ 7.927173813000 4.50
+ 7.927173833000 0.00
+ 7.933319813000 0.00
+ 7.933319833000 4.50
+ 7.936552813000 4.50
+ 7.936552833000 0.00
+ 7.942678313000 0.00
+ 7.942678333000 4.50
+ 7.944742313000 4.50
+ 7.944742333000 0.00
+ 7.950871813000 0.00
+ 7.950871833000 4.50
+ 7.952933813000 4.50
+ 7.952933833000 0.00
+ 7.959064813000 0.00
+ 7.959064833000 4.50
+ 7.961126813000 4.50
+ 7.961126833000 0.00
+ 7.966099313000 0.00
+ 7.966099333000 4.50
+ 7.969318313000 4.50
+ 7.969318333000 0.00
+ 7.974263313000 0.00
+ 7.974263333000 4.50
+ 7.977513313000 4.50
+ 7.977513333000 0.00
+ 7.982526313000 0.00
+ 7.982526333000 4.50
+ 7.985704313000 4.50
+ 7.985704333000 0.00
+ 7.990646313000 0.00
+ 7.990646333000 4.50
+ 7.994757813000 4.50
+ 7.994757833000 0.00
+ 8.000022313000 0.00
+ 8.000022333000 4.50
+ 8.002950813000 4.50
+ 8.002950833000 0.00
+ 8.008214813000 0.00
+ 8.008214833000 4.50
+ 8.011143313000 4.50
+ 8.011143333000 0.00
+ 8.016407813000 0.00
+ 8.016407833000 4.50
+ 8.019334813000 4.50
+ 8.019334833000 0.00
+ 8.024600813000 0.00
+ 8.024600833000 4.50
+ 8.027541313000 4.50
+ 8.027541333000 0.00
+ 8.031621813000 0.00
+ 8.031621833000 4.50
+ 8.035720813000 4.50
+ 8.035720833000 0.00
+ 8.039797313000 0.00
+ 8.039797333000 4.50
+ 8.043910813000 4.50
+ 8.043910833000 0.00
+ 8.048063313000 0.00
+ 8.048063333000 4.50
+ 8.053286813000 4.50
+ 8.053286833000 0.00
+ 8.057369813000 0.00
+ 8.057369833000 4.50
+ 8.061478313000 4.50
+ 8.061478333000 0.00
+ 8.065558313000 0.00
+ 8.065558333000 4.50
+ 8.069670813000 4.50
+ 8.069670833000 0.00
+ 8.073750813000 0.00
+ 8.073750833000 4.50
+ 8.077861813000 4.50
+ 8.077861833000 0.00
+ 8.081945313000 0.00
+ 8.081945333000 4.50
+ 8.086053813000 4.50
+ 8.086053833000 0.00
+ 8.096279313000 0.00
+ 8.096279333000 4.50
+ 8.102438313000 4.50
+ 8.102438333000 0.00
+ 8.104470313000 0.00
+ 8.104470333000 4.50
+ 8.110630813000 4.50
+ 8.110630833000 0.00
+ 8.112662313000 0.00
+ 8.112662333000 4.50
+ 8.119685313000 4.50
+ 8.119685333000 0.00
+ 8.121718313000 0.00
+ 8.121718333000 4.50
+ 8.127876813000 4.50
+ 8.127876833000 0.00
+ 8.129927313000 0.00
+ 8.129927333000 4.50
+ 8.136068813000 4.50
+ 8.136068833000 0.00
+ 8.138101813000 0.00
+ 8.138101833000 4.50
+ 8.144260813000 4.50
+ 8.144260833000 0.00
+ 8.146309813000 0.00
+ 8.146309833000 4.50
+ 8.211856813000 4.50
+ 8.211856833000 0.00
+ 10.200000000000 0.00
+ 10.200000020000 0.00
+ 10.230000000000 0.00
+ )
Rout cmd gateinput 40
Rg gateinput gate 100
Rpd gate 0 10k
Vsense drain drainq 0
XQ drainq gate 0 IPD90N10S4L06
Lcoil drain coil 0.012
Rcoil coil rail 3.7800000000000002
Vdiode drain diode 0
Dfly diode rail DS3M
.save v(drainq) v(gate) i(Vsense) i(Vdiode) i(Lcoil)
.options reltol=0.002 method=trap maxord=2
.tran 100u 10.230000000 0 2.5u
.control
set numdgt=12
run
let pfet=v(drainq)*i(Vsense)
* Average forward current; exclude physical reverse leakage from the forward rating.
let id=(abs(i(Vdiode))+i(Vdiode))/2
let icoil=abs(i(Lcoil))
let sim_end=time[length(time)-1]
print sim_end
meas tran vds_peak MAX v(drainq)
meas tran vgs_peak MAX v(gate)
meas tran p_avg AVG pfet from=0.200000000 to=10.200000000
meas tran id_avg AVG id from=0.200000000 to=10.200000000
meas tran i_peak MAX i(Vsense)
meas tran coil_peak MAX icoil
let tj_repeating=50+p_avg*62
print tj_repeating
.endc
.end
